US07378417B2
To a stirred solution of 2,2,2-trifluoroethylamine (1.17 ml, 15 mmol) in dioxane (37 ml) was added at room temperature 3-nitrobenzenesulfonyl chloride (3.0 g, 14 mmol) and triethylamine (2.06 ml, 15 mmol). The light yellow suspension was stirred at room temperature for 4 h, poured into water (100 ml) and extracted with dichloromethane (3×75 ml). The combined organic layers were washed with water (100 ml) and brine (70 ml), dried (MgSO4) and evaporated. The crude product was further purified by column chromatography on silica gel (heptane/ethyl acetate 1:1) to yield 3-nitro-N-(2,2,2-trifluoro-ethyl)-benzenesulfonamide (3.18 g, 83%) as a light yellow solid. MS (ISP) 283.9 [(M−H)−].

reactant | 2,2,2-trifluoroethylamine | 15 mmol, 1.17 ml | FC(CN)(F)F | C2H4F3N
reactant | 3-nitrobenzenesulfonyl chloride | 14 mmol, 3.0 g | [N+](=O)([O-])C=1C=C(C=CC1)S(=O)(=O)Cl | C6H4ClNO4S
reactant | triethylamine | 15 mmol, 2.06 ml | C(C)N(CC)CC | C6H15N
reactant | water | 100 ml | O | H2O
solvent | dioxane | 37 ml | O1CCOCC1 | C4H8O2
product | 3-nitro-N-(2,2,2-trifluoro-ethyl)-benzenesulfonamide | 3.18 g, 83% | [N+](=O)([O-])C=1C=C(C=CC1)S(=O)(=O)NCC(F)(F)F | C8H7F3N2O4S
